### PR TITLE
added ltac2 bindings for congruence and simple congruence

### PR DESCRIPTION
**Pull request by StamesJames**
Hi,
this is my first PR to Coq so I hope I've done it right otherwise please say when there is something wrong :-)

I wrote ltac2 bindings for the congruence tactic so this is related to issue #14289 
I wasn't sure where to put tests for this and how they should look but I tested it outside the automatic test-suite with the following coq code:

```coq
Require Import Ltac2.Ltac2.

Ltac2 congruence_dev () := congruence.
Ltac2 simpl_congruence_dev () := simple congruence.

Lemma congruence_test_1 : (forall x:bool, x = true) -> False.
Proof.
    intros.
    Fail congruence.
    Fail congruence 0 with false.
    Fail congruence 1 with true.
    congruence 1 with false.
Qed.

Lemma congruence_test_2 : (forall x:bool, x = true) -> False.
Proof.
    intros.
    Fail congruence.
    congruence with false.
Qed.

Lemma congruence_test_3 {A B} (f: A->B->A) (a:A) (b:B): f a b = a -> f (f a b) b = a.
Proof.
congruence.
Qed. 

Lemma congruence_test_4 {A} (f: A->A) (a:A): f (f (f a)) = a -> f (f (f (f (f a)))) = a -> f a = a.
Proof.
congruence.
Qed. 

Lemma simple_congruence_test_1 : (forall x:bool, x = true) -> False.
Proof.
    intros.
    Fail simple congruence.
    Fail simple congruence 0 with false.
    Fail simple congruence 1 with true.
    simple congruence 1 with false.
Qed.

Lemma simple_congruence_test_2 : (forall x:bool, x = true) -> False.
Proof.
    intros.
    Fail simple congruence.
    simple congruence with false.
Qed.

Lemma simple_congruence_test_3 {A B} (f: A->B->A) (a:A) (b:B): f a b = a -> f (f a b) b = a.
Proof.
simple congruence.
Qed. 

Lemma simple_congruence_test_4 {A} (f: A->A) (a:A): f (f (f a)) = a -> f (f (f (f (f a)))) = a -> f a = a.
Proof.
simple congruence.
Qed. 
```

Overlays:
- https://github.com/mattam82/Coq-Equations/pull/612

### CODE REVIEW

File: user-contrib/Ltac2/Notations.v [hunk 1]
```diff
@@ -624,3 +624,8 @@ Ltac2 Notation "now" t(thunk(self)) : 6 := now0 t.
 Ltac2 start_profiling () := ltac1:(start ltac profiling).
 Ltac2 stop_profiling () := ltac1:(stop ltac profiling).
 Ltac2 show_profile () := ltac1:(show ltac profile).
+
+Ltac2 congruence0 n l := Std.congruence n l.
+Ltac2 Notation "congruence" n(opt(tactic(0))) l(opt(seq("with", list1(constr)))) := congruence0 n l.
+Ltac2 simpl_congruence0 n l :=  Std.simple_congruence n l.
+Ltac2 Notation "simple" "congruence" n(opt(tactic(0))) l(opt(seq("with", list1(constr)))) := congruence0 n l.
```
Comment (SkySkimmer) [inline user-contrib/Ltac2/Notations.v:631]:
```suggestion
Ltac2 Notation "congruence" n(opt(tactic(0))) l(opt(seq("with", list1(constr)))) := Std.congruence n l.
Ltac2 simpl_congruence0 n l :=  Std.simple_congruence n l.
Ltac2 Notation "simple" "congruence" n(opt(tactic(0))) l(opt(seq("with", list1(constr)))) := Std.simple_congruence n l.

```

File: user-contrib/Ltac2/Std.v [hunk 2]
```diff
@@ -270,3 +270,9 @@ Ltac2 @ external resolve_tc : constr -> unit := "coq-core.plugins.ltac2" "tac_re
     Does not focus. *)
 
 Ltac2 @ external unify : constr -> constr -> unit := "coq-core.plugins.ltac2" "tac_unify".
+
+
+Ltac2 @ external congruence : int option -> (constr list) option -> unit :=
+  "coq-core.plugins.ltac2" "congruence".
+Ltac2 @ external simple_congruence : int option -> (constr list) option -> unit :=
```
Comment (SkySkimmer) [inline user-contrib/Ltac2/Std.v:277]:
```suggestion
Ltac2 @ external congruence : int option -> constr list option -> unit :=
  "coq-core.plugins.ltac2" "congruence".
Ltac2 @ external simple_congruence : int option -> constr list option -> unit :=
```

File: plugins/ltac2/tac2tactics.ml [hunk 3]
```diff
@@ -456,3 +456,21 @@ let inversion knd arg pat ids =
 let contradiction c =
   let c = Option.map mk_with_bindings c in
   Contradiction.contradiction c
+
+let congruence n l = 
+  let n = match n with
+  | None -> 1000
```
Comment (SkySkimmer) [inline plugins/ltac2/tac2tactics.ml:462]: It's not very nice to have this magic number in multiple places, how about modifying the cctac API to take `int option` and handle the default value internally instead?

Comment (ppedrot) [inline plugins/ltac2/tac2tactics.ml:462]: Don't hardcode the values, simply expose this function argument as an integer. Same remarks for the variant below and the list arguments.

File: plugins/ltac2/dune [hunk 4]
```diff
@@ -3,6 +3,6 @@
  (public_name coq-core.plugins.ltac2)
  (synopsis "Ltac2 plugin")
  (modules_without_implementation tac2expr tac2qexpr tac2types)
- (libraries vernac))
+ (libraries vernac coq-core.plugins.cc))
```
Comment (SkySkimmer) [inline plugins/ltac2/dune:6]: ltac2_plugin is not supposed to depend on ltac1 but cc depends on ltac1
Try putting the code in ltac2_ltac1_plugin instead

File: plugins/ltac2/tac2stdlib.ml [hunk 5]
```diff
@@ -618,3 +618,12 @@ let () =
...
     Tac2tactics.evarconv_unify
+
+let () =
+  define "congruence"
+  (option int @-> option (list constr) @-> tac unit)
+  Tac2tactics.congruence
+let () =
+  define "simple_congruence"
+  (option int @-> option (list constr) @-> tac unit)
+  Tac2tactics.simple_congruence
```
Comment (SkySkimmer) [inline plugins/ltac2/tac2stdlib.ml:629]: Files should end with a single newline character but this (and others in this PR) ends with a non newline character.

**Review by SkySkimmer — CHANGES_REQUESTED** [review]

File: plugins/ltac2/tac2tactics.ml (hunk 3 above)
Comment (ppedrot) [reply plugins/ltac2/tac2tactics.ml:462]: That's also fine.

File: plugins/ltac2/tac2stdlib.ml (hunk 5 above)
Comment (JasonGross) [reply plugins/ltac2/tac2stdlib.ml:629]:
```suggestion
  Tac2tactics.simple_congruence

```

File: plugins/ltac2/tac2tactics.ml [hunk 6]
```diff
@@ -456,3 +456,21 @@ let inversion knd arg pat ids =
...
+  Cc_plugin.Cctac.congruence_tac n l 
+
+let simple_congruence n l = 
+  let n = match n with
+  | None -> 1000
+  | Some n' -> n' in
+  let l = match l with
+  | None -> []
+  | Some l' -> l' in 
+  Cc_plugin.Cctac.simple_congruence_tac n l
```
Comment (JasonGross) [inline plugins/ltac2/tac2tactics.ml:476]:
```suggestion
  Cc_plugin.Cctac.simple_congruence_tac n l

```

File: plugins/ltac2/dune (hunk 4 above)
Comment (JasonGross) [reply plugins/ltac2/dune:6]: Is this the situation with other tactic plugins as well?  Should they all be split at once?

Comment (ppedrot) [reply plugins/ltac2/dune:6]: Most plugins seem to only depend on Ltac1 for the mlg declaration, but in some cases it depends in a more intricate way, e.g. tauto is basically a Ltac1 library.

File: plugins/ltac2/tac2tactics.ml (hunk 3 above)
Comment (StamesJames) [reply plugins/ltac2/tac2tactics.ml:462]: I've done it because in the Ltac implementation they are hardcoded into the mlg file. Should I change that, so that they are hardcoded into cctac.ml and change the mlg file to call congruence_tac with option types?

File: plugins/ltac2/dune (hunk 4 above)
Comment (StamesJames) [reply plugins/ltac2/dune:6]: I could delete the coq-core.plugins.ltac dependency in cc_plugin and have a folder somewhere for Ltac notation definitions. Maybe similar to Ltac2 in the user-contrib folder, or in plugins as ltac_notations. But if some plugins can't be split this way it may be unintuitive why some have seperate notation definitions and some not.

File: plugins/ltac2/tac2tactics.ml (hunk 3 above)
Comment (SkySkimmer) [reply plugins/ltac2/tac2tactics.ml:462]: That is what I suggest

Comment (StamesJames) [reply plugins/ltac2/tac2tactics.ml]: changed it so that the defaults are in cctac.ml and g_congruence.mlg just calls it wit options so the ltac2 version also calls it with options

Comment (StamesJames) [reply plugins/ltac2/tac2tactics.ml]: I changed it this way

File: plugins/cc/cctac.mli [hunk 7]
```diff
@@ -10,8 +10,8 @@
 
 open EConstr
 
-val congruence_tac : int -> constr list -> unit Proofview.tactic
+val congruence_tac : int option -> constr list option -> unit Proofview.tactic
 
-val simple_congruence_tac : int -> constr list -> unit Proofview.tactic
+val simple_congruence_tac : int option -> constr list option -> unit Proofview.tactic
```
Comment (SkySkimmer) [inline plugins/cc/cctac.mli:15]: For the list argument the default is empty list which IMO is not a magic value, so the API should just take list

File: plugins/ltac2/tac2stdlib.ml (hunk 5 above)
Comment (StamesJames) [reply plugins/ltac2/tac2stdlib.ml]: Is there a way to run the CI linter localy? I search for a lint target in the Makefile.ci or a ci-lint.sh in dev/ci but haven't found something like this.

Comment (SkySkimmer) [reply plugins/ltac2/tac2stdlib.ml]: https://github.com/coq/coq/blob/master/dev/lint-repository.sh

Comment (StamesJames) [reply plugins/ltac2/tac2stdlib.ml]: Thank you

File: plugins/cc/cctac.mli (hunk 7 above)
Comment (StamesJames) [reply plugins/cc/cctac.mli:15]: That's true. I thought it might be good to make it option because that's how it will be in the exposed grammar but you right that's nothing the cctac API should be concerned about.

**Comment by StamesJames** [comment]
I have squashed all the commits so the linter doesn't complain because of the outdated commits and i have resolved the conversations where I already have done the changes. Is it right that I resolve the conversations myself or should I let the reviewer that started it do this?

File: plugins/ltac2/dune (hunk 4 above)
Comment (ppedrot) [reply plugins/ltac2/dune:6]: IIUC this is the last point that is blocking this PR. Should we split the congruence plugin in half then?

Comment (SkySkimmer) [reply plugins/ltac2/dune:6]: Is Ltac1 Tactic Notation good enough that if we add ltac2 bindings for congruence we could define ltac1 congruence that way?
Although even if it is, we would still need to figure out how to get prelude depending on ltac2

**Comment by ppedrot** [comment]
@StamesJames can you rebase on master? That way you can take advantage of #19313 to only depend on the cc_core plugin which is Ltac1-free.

**Comment by StamesJames** [comment]
@ppedrot 
A yes of course.

**Comment by StamesJames** [comment]
I rebased it and now it only depends on cc_core_plugin

**Review by SkySkimmer — APPROVED** [review]

**Comment by SkySkimmer** [comment]
Please add a changelog https://github.com/coq/coq/blob/master/doc/changelog/README.md

**Comment by StamesJames** [comment]
@SkySkimmer I wrote the changelog. I put it in 06-Ltac06-language is that right or is this category just for the core language development of Ltac2?

**Comment by SkySkimmer** [comment]
Category seems fine, usually we don't list reviewers in the changelog

**Comment by SkySkimmer** [comment]
I thought we had run full CI at some point but I guess not, cf https://github.com/mattam82/Coq-Equations/pull/612
